US05274060
Preparation of 4-ethenylphenyl-di-n-propoxymethane
In a 100 ml 3-necked round-bottomed flask, 6.8 g (51.5 mmol) of 4-vinylbenzaldehyde, 12.4 g (205.8 mmol) of n-propanol and 0.1 g (0.5 mmol) of p-toluenesulfonic acid are dissolved in 45 ml of benzene. The solution is refluxed for 22 hours using a water separator and then ether is added thereto. The mixture is subsequently neutralised with 0.1N sodium hydroxide solution. The organic phase is then washed three times with water, dried over magnesium sulfate and concentrated. The resulting oil can be purified by column chromatography (stationary phase silica gel, mobile phase hexane/ether 5/4) to yield 2.54 g (10.8 mmol, 21% of the theoretical yield) of the desired substance in the form of a clear oil.

reactant | 4-vinylbenzaldehyde | 51.5 mmol, 6.8 g | C(=C)C1=CC=C(C=O)C=C1 | C9H8O
reactant | n-propanol | 205.8 mmol, 12.4 g | C(CC)O | C3H8O
reactant | p-toluenesulfonic acid | 0.5 mmol, 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-ethenylphenyl-di-n-propoxymethane | C(=C)C1=CC=C(C=C1)C(OCCC)OCCC | C15H22O2
